US05840732
Synthesis of 5-chloro-2-methylimidazo[1,2-a]pyridine hydrobromide
To a solution of 19.28 g (150 mmol) of 2-amino-6-chloropyridine in 150 ml of ethanol, 25 g (180 mmol) of bromoacetone was added at room temperature, followed by refluxing for 64 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was purified by recrystallization (solvent: ethanol-ethyl acetate) to yield 20.22 g (54.5%, light brown crystal) of the desired product.

reactant | 2-amino-6-chloropyridine | 150 mmol, 19.28 g | NC1=NC(=CC=C1)Cl | C5H5ClN2
reactant | bromoacetone | 180 mmol, 25 g | BrCC(C)=O | C3H5BrO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-chloro-2-methylimidazo[1,2-a]pyridine hydrobromide | Br.ClC1=CC=CC=2N1C=C(N2)C | InChI=1S/C8H7ClN2.BrH/c1-6-5-11-7(9)3-2-4-8(11)10-6;/h2-5H,1H3;1H
